### PR TITLE
Witnessed equivocation and fixed-set equivocation

### PR DESCRIPTION
**Pull request by traiansf**
This is now ready for review.
Main contributions:

- Strong fixed set equivocation, and its equivalence to fixed set equivocation
- (Strong) Witnessed equivocation and fixed equivocation induced by `equivocating_validators`

Various refactorings:

- protocol_prop to take two arguments instead of a pair
- SubProjection index for the free composition assumed instead of derived
- Isolated results assuming `ProofIrrelevance` to the 'old' `VLSM/CBC` modules

### CODE REVIEW

File: CBC/Protocol.v [hunk 1]
```diff
@@ -5,6 +5,32 @@ From CasperCBC Require Import Lib.Preamble Lib.ListExtras Lib.ListSetExtras.
...
+  (a b : {x : X | P x})
+  : a = b <-> proj1_sig a = proj1_sig b.
+Proof.
+  destruct a as [a Ha]; destruct b as [b Hb]; simpl.
+  split; intros Heq.
+  - inversion Heq. reflexivity.
+  - subst. apply f_equal. apply proof_irrelevance.
+Qed.
+
+Lemma sigify_eq_dec {X : Type} `{StrictlyComparable X} :
```
Comment (palmskog) [inline CBC/Protocol.v:20]: Is there an obvious reason why the `EqDecision` typeclass notation is not used here? It should give exactly the same term as this one when `Decision` is unfolded, but we actually record the instance.

File: VLSM/Composition.v [hunk 2]
```diff
@@ -187,6 +187,13 @@ iff it has the [initial_message_prop]erty in any of the component signatures.
       :=
         exists (n : index) (mi : vinitial_message (IM n)), proj1_sig mi = m.
 
+    Definition option_composite_initial_message_prop (om : option message) : Prop
```
Comment (palmskog) [inline VLSM/Composition.v:190]: This definition is so trivial that there should be some stdpp equivalent for it already. Maybe you can take a look in `stdpp/option.v` if something fits? I'd rather have fewer definitions even if this leads to a small measure more complicated expressions in other code.

File: VLSM/Equivocation/FixedSetEquivocation.v [hunk 3]
```diff
@@ -17,81 +15,1336 @@ to free composition, we can say that a message can be produced by a network
...
+
+Lemma fixed_equivocation_vlsm_composition_incl_preloaded_free
+  : VLSM_incl fixed_equivocation_vlsm_composition (pre_loaded_with_all_messages_vlsm Free).
+Proof.
+  apply VLSM_incl_trans with (machine Free).
+  - apply fixed_equivocation_vlsm_composition_incl_free.
+  - apply vlsm_incl_pre_loaded_with_all_messages_vlsm.
+Qed.
+
+(** ** A (semeingly) stronger definition for fixed-set equivocation
```
Comment (palmskog) [inline VLSM/Equivocation/FixedSetEquivocation.v:113]:
```suggestion
(** ** A (seemingly) stronger definition for fixed-set equivocation
```

File: VLSM/Equivocation/TraceWiseEquivocation.v [hunk 4]
```diff
@@ -4,32 +4,152 @@ From CasperCBC Require Import Lib.Preamble Lib.ListExtras Lib.ListSetExtras Lib.
...
+(** An item is equivocating in a trace containing it if it receives
+a message which has not been previosly sent in that thace.
+*)
+Definition item_equivocating_in_trace
+  (item : composite_transition_item IM)
+  (tr : list (composite_transition_item IM))
+  : Prop
+  :=
+  let oim := input item in
+  match oim with
```
Comment (palmskog) [inline VLSM/Equivocation/TraceWiseEquivocation.v:44]: Here I also feel there should be something in `stdpp/option.v` to make this a bit shorter.

File: VLSM/Equivocation/WitnessedEquivocation.v [hunk 5]
```diff
@@ -0,0 +1,926 @@
...
+        apply (Hfull _ _ _ _ Hv) in Hdm.
+        exists i. assumption.
+      }
+      spec Hproj (@dec_exist _ _ (fun v => sub_index_prop_dec (equivocating_validators sf) v) v Hequivocating_v).
+      apply (VLSM_full_projection_can_emit Hproj).
+      assumption.
+Qed.
+
+
+(** Main result of the section. Any Free protocol trace with the
```
Comment (palmskog) [inline VLSM/Equivocation/WitnessedEquivocation.v:779]: Maybe use a coqdoc subsection here, such as:
````
(** *** Main result of the section

Other stuff goes here ...
*)
```

File: VLSM/SubProjectionTraces.v [hunk 6]
```diff
@@ -73,15 +68,13 @@ Definition seeded_free_sub_composition
   := pre_loaded_vlsm free_sub_vlsm_composition
       (fun m => messageSet m \/ composite_initial_message_prop IM m).
 
-Local Lemma i0 : Inhabited index.
+Lemma i0 : Inhabited index.
```
Comment (palmskog) [inline VLSM/SubProjectionTraces.v:71]: If this is to be a globally accessible lemma, please use a better, more descriptive name than `i0`.

**Review by palmskog — CHANGES_REQUESTED** [review]
This looks good in general from a Coq proof engineering and documentation view, but with some small things that need to be fixed.

For the overall "semantic" view, I have to trust that this is a good idea, so I will approve once the comments are addressed.

File: VLSM/Equivocation/WitnessedEquivocation.v [hunk 7]
```diff
@@ -0,0 +1,926 @@
...
+  specialize (Hv _ _ Htr).
+  destruct Hv as [m [Hm Heqv]].
+  exists m. split; [assumption|].
+  apply equivocation_in_trace_prefix. assumption.
+Qed.
+
+(**
+Given a trace with the [trace_witnessing_equivocation_prop]erty,
+if the [equivocating_validators] for the destination of its last transition
+are  included in the [equivocating_validators] for the source of its last
```
Comment (bmmoore) [inline VLSM/Equivocation/WitnessedEquivocation.v:153]: Isn't it impossible for this to be a strict inclusion, by the previous lemma? It's not immediately obvious because the arguments are written differently. Why does this have an `item` and `s' := destination item`, while the previous lemma has separate arguments for the components of the transition and has a definition for `item`?

**Review by bmmoore — CHANGES_REQUESTED** [review]
A few typos and requests for clarification, but the main results and also the `protocol_prop` refactoring look good.

File: VLSM/Equivocation.v [hunk 8]
```diff
@@ -1849,14 +2055,122 @@ Section Composite.
...
 End Composite.
 
+  Lemma composite_has_been_observed_sent_received_iff
+    {message}
+    `{IndEqDec : EqDecision index}
+    (IM : index -> VLSM message)
+    (Hbs : forall i : index, has_been_sent_capability (IM i))
+    (Hbr : forall i : index, has_been_received_capability (IM i))
+    (Hbo : forall i : index, has_been_observed_capability (IM i)
+      := fun i => has_been_observed_capability_from_sent_received (IM i))
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/Equivocation.v:2095]: I actually use it as-is in more than one place, and rely that has_been_observed was built that way. But I agree that we could prove a more generic result if we wanted to.

File: VLSM/VLSMProjections.v [hunk 9]
```diff
@@ -173,61 +230,129 @@ Record VLSM_projection
...
+    apply (trace_project_app _ _ _ _ Hsimul).
+    exists s'X. assumption.
+  + symmetry. apply (final_state_project _ _ _ _ Hsimul). 
+    apply (finite_protocol_trace_from_app_iff (pre_loaded_with_all_messages_vlsm  X)) in H1.
+    apply H1.
+Qed.
+
+End projection_type_properties.
+
+Record VLSM_weak_projection
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/VLSMProjections.v:271]: I added a comment. In general yes, as proved for full_projections, any weak projection preserving initial states becomes a projection.

File: VLSM/Equivocation/FixedSetEquivocation.v [hunk 10]
```diff
@@ -17,81 +15,1336 @@ to free composition, we can say that a message can be produced by a network
...
+  (finite_index : Listing index_listing)
+  .
+
+Section generalized_strong_fixed_equivocation_basic.
+
+Context
+  (equivocating : set index)
+  .
+
+Definition generalized_fixed_equivocation s m : Prop
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/Equivocation/FixedSetEquivocation.v:1064]: I agree that it would be nice to be able to have only one case here, and in general it would be nice if we could not special case the empty set of equivocators.

W.r.t. why can't have empty compositions, the reason is that we require the set of labels to be inhabited. However, we don't usually rely upon the non-emptiness of labels.
The only place we actually use the inhabitant of the label set is to spawn `NewMachine` copies for equivocators, and in that particular case we could slightly alter the definition of the Equivocator VLSM to add an extra label.

Maybe that would be a point to address in one of the meetings, as allowing empty compositions would indeed simplify some things.

File: VLSM/Equivocation/WitnessedEquivocation.v (hunk 7 above)
Comment (traiansf) [reply VLSM/Equivocation/WitnessedEquivocation.v:153]: I think it is indeed impossible for it to be a strict inclusion; however, it's easier to use this way, as otherwise we might need to apply the previous lemma to show that the conditions of this lemma are satisfied.

Thanks for the remark about argument order.

File: VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v [hunk 11]
```diff
@@ -1025,6 +1025,7 @@ traces which are protocol for the simple-nodes definition of
 full-node-like limited equivocation.
 *)
 Theorem limited_equivocators_protocol_trace_project
+  (sender_safety :  can_emit_sender_safety_prop IM (fun i => i) sender)
```
Comment (palmskog) [inline VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v:1028]:
```suggestion
  (sender_safety :  can_emit_sender_safety_prop IM id sender)
```

File: VLSM/SubProjectionTraces.v [hunk 12]
```diff
@@ -687,22 +669,566 @@ Proof.
...
+
+Lemma lift_sub_state_to_eq
+  (s0 : composite_state IM)
+  (s : composite_state sub_IM)
+  i
+  (Hi : sub_index_prop i)
+  : lift_sub_state_to s0 s i = s (dec_exist _ i Hi).
+Proof.
+  unfold lift_sub_state_to.
+  destruct (decide _); [|contradiction].
```
Comment (palmskog) [inline VLSM/SubProjectionTraces.v:709]:
```suggestion
  case_decide; [|contradiction].
```

File: VLSM/SubProjectionTraces.v [hunk 13]
```diff
@@ -687,22 +669,566 @@ Proof.
...
-  destruct Hfutures as [tr Htr].
-  apply ptrace_get_last in Htr as Heq_s2.
-  apply ptrace_forget_last in Htr.
-  subst s2.
-  specialize (finite_protocol_trace_from_sub_projection s1 tr Hs2 Htr); intros Htrj.
-  exists (finite_trace_sub_projection tr).
-  apply ptrace_add_last;[assumption|].
-  apply finite_trace_sub_projection_last_state.
+  unfold lift_sub_state_to.
+  destruct (decide _); [contradiction|].
```
Comment (palmskog) [inline VLSM/SubProjectionTraces.v:721]:
```suggestion
  case_decide; [contradiction|].
```

File: VLSM/SubProjectionTraces.v [hunk 14]
```diff
@@ -687,22 +669,566 @@ Proof.
...
+    end.
+
+Lemma lift_sub_incl_state_initial
+  (s : composite_state sub_IM1)
+  (Hs : composite_initial_state_prop sub_IM1 s)
+  : composite_initial_state_prop sub_IM2 (lift_sub_incl_state s).
+Proof.
+  intros [i Hi].
+  unfold lift_sub_incl_state.
+  destruct (decide _).
```
Comment (palmskog) [inline VLSM/SubProjectionTraces.v:1090]:
```suggestion
  case_decide.
```

File: VLSM/VLSMProjections.v [hunk 15]
```diff
@@ -95,49 +177,31 @@ Proof.
   apply (VLSM_partial_projection_finite_protocol_trace _ _ _ _ Hpr HtrX).
 Qed.
 
-Lemma VLSM_partial_projection_protocol_state
+Definition VLSM_partial_projection_weaken : VLSM_weak_partial_projection X Y trace_project :=
```
Comment (palmskog) [inline VLSM/VLSMProjections.v:180]: Not sure I see the point about switching from `Lemma` to `Definition` below here (although it usually makes sense when there is a record, sure). You are still building `Prop`s, right? The usual distinction between `Definition` and `Lemma` is `Prop`-vs.non-`Prop`, rather than if `Proof. ... Qed.` is used.

File: VLSM/VLSMProjections.v [hunk 16]
```diff
@@ -783,6 +1151,41 @@ Proof.
...
+Context
+  {message : Type}
+  {T : VLSM_type message}
+  {SX SY : VLSM_sign T}
+  (MX : VLSM_class SX)
+  (MY : VLSM_class SY)
+  (X := mk_vlsm MX)
+  (Y := mk_vlsm MY)
+  .
+
```
Comment (palmskog) [inline VLSM/VLSMProjections.v:1165]: Consider using `id` below instead of `fun x => x`.

**Review by palmskog — APPROVED** [review]
Only very minor stuff to remark on, looks good to me in general.

**Review by bmmoore — APPROVED** [review]
I have a few further requests on the comments about constraint subsumptions, but everything else looks good.

File: VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v (hunk 11 above)
Comment (traiansf) [reply VLSM/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v:1028]: I've changed in some other cases, but in this particular case it doesn't work. The reason is that the argument it is supposed to fill has different domain and codomain so it gets confused about using id

File: Lib/ListExtras.v [hunk 17]
```diff
@@ -1375,6 +1375,17 @@ Proof.
...
 
+Lemma elem_of_one_element_decompositions
+  {A : Type}
+  (l : list A)
+  (pre suf : list A)
+  (x : A)
+  : (pre, x, suf) ∈ one_element_decompositions l
+  <-> pre ++ [x] ++ suf = l.
+Proof.
+  rewrite elem_of_list_In. apply in_one_element_decompositions_iff.
```
Comment (palmskog) [inline Lib/ListExtras.v:1386]: Hmm, could it be worthwhile to instead translate `apply in_one_element_decompositions_iff.` and replace uses of it?

File: Lib/ListExtras.v [hunk 18]
```diff
@@ -2003,3 +2029,14 @@ Proof.
...
  assumption.
 Qed.
+
+Lemma NoDup_subseteq_length [A : Type]
+  [l1 l2 : list A]
+  (Hnodup : NoDup l1)
+  (Hincl : l1 ⊆ l2)
+  : length l1 <= length l2.
+Proof.
+  apply NoDup_incl_length.
```
Comment (palmskog) [inline Lib/ListExtras.v:2039]: This proof shouldn't need going through `elem_of_list_In`. Not a big deal, but maybe make a TODO note.

File: VLSM/Equivocation/LimitedEquivocation.v [hunk 19]
```diff
@@ -44,7 +44,7 @@ Context
   (Free_has_been_received_capability : has_been_received_capability Free := free_composite_has_been_received_capability IM finite_index Hbr)
   (Free_has_been_observed_capability : has_been_observed_capability Free := free_composite_has_been_observed_capability IM finite_index Hbo)
   (sender : message -> option index)
-  (message_dependencies : message -> set message)
+  (message_dependencies : message -> list message)
```
Comment (palmskog) [inline VLSM/Equivocation/LimitedEquivocation.v:47]: If you are indeed using this as a "listset", then I think you should keep the `set` moniker. I specifically preserved this in my list set layer for Stdpp.

File: Lib/ListExtras.v (hunk 18 above)
Comment (bmmoore) [reply Lib/ListExtras.v:2039]: It would be nice to avoid `NoDup_ListNoDup` here as well, but I don't see any nice stdpp lemmas that would apply.

**Review by bmmoore — APPROVED** [review]
Merge looks good

File: Lib/ListExtras.v (hunk 18 above)
Comment (traiansf) [reply Lib/ListExtras.v:2039]: Thanks for the advice. I managed to use `submseteq_length`.
For sets, `NoDup_submseteq` allows us to turn `⊆` into `⊆+` and then we can use the many lemmas available for `⊆+`
